US05780482
The mixture of 5-chloro-3-ethoxy-2-methyl-1,8-naphthyridine (5.0 g), 4-methoxyaniline (2.77 g) and IMS (40 ml) was boiled under reflux for 2.5 hours. The mixture was cooled and filtered. The solid obtained was dissolved in boiling IMS (50 ml) and 5M sodium hydroxide solution (4.0 ml) was added. The mixture was heated under reflux for 1 hour and then cooled and water (100 ml) was added. The mixture was filtered to give 3-ethoxy-5-(4-methoxyanilino)-2-methyl-1,8-naphthyridine hydrate, m.p. 228°-231° C.

reactant | 5-chloro-3-ethoxy-2-methyl-1,8-naphthyridine | 5.0 g | ClC1=C2C=C(C(=NC2=NC=C1)C)OCC | C11H11ClN2O
reactant | 4-methoxyaniline | 2.77 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | sodium hydroxide | 5M, 4.0 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 3-ethoxy-5-(4-methoxyanilino)-2-methyl-1,8-naphthyridine hydrate | O.C(C)OC=1C(=NC2=NC=CC(=C2C1)NC1=CC=C(C=C1)OC)C | InChI=1S/C18H19N3O2.H2O/c1-4-23-17-11-15-16(9-10-19-18(15)20-12(17)2)21-13-5-7-14(22-3)8-6-13;/h5-11H,4H2,1-3H3,(H,19,20,21);1H2
